US08669229B2
Palmitoyl chloride (1.24 ml, 4.4 mmol) was added to a dichloromethane (20 ml) solution of tolvaptan (2.00 g, 4.4 mmol) and pyridine (0.40 ml, 5.0 mmol), and the mixture was stirred at room temperature over night. Water was added to the reaction mixture and the mixture was extracted with dichloromethane. The combined organic layer was washed with water and an aqueous saturated sodium chloride solution, and dried over magnesium sulfate. After filtration and concentration, the residue was purified by silica gel chromatography (n-hexane:ethyl acetate) to thereby obtain 2.25 g (74%) of {7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl}hexadecanoate as amorphous.

reactant | Palmitoyl chloride | 4.4 mmol, 1.24 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | tolvaptan | 4.4 mmol, 2.00 g | CC=1C=CC=CC1C(=O)NC=2C=CC(=C(C2)C)C(=O)N3CCCC(C4=C3C=CC(=C4)Cl)O | C26H25ClN2O3
reactant | pyridine | 5.0 mmol, 0.40 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | {7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl}hexadecanoate | 2.25 g, 74% | ClC1=CC2=C(N(CCCC2OC(CCCCCCCCCCCCCCC)=O)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1 | C42H55ClN2O4
